US08404679B2
b) rac-[(3S,4R)-4-(3,4-Dichloro-phenyl)-1-(4-methanesulfonyl-piperazine-1-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester (X-3)
To a solution of rac-[(3S,4R)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester (130 mg, 0.376 mmol) in CH2Cl2 (5 ml) was added ethyl-diisopropyl-amine (0.10 ml, 0.56 mmol) and 4-methanesulfonyl-piperazine-1-carbonyl chloride (94 mg, 0.41 mmol). Stirring was continued over night at RT, concentrated under vacuo and purification by flash chromatography (SiO2, EtOAc/Hx 3:1) afforded 135 mg (66%) of the title compound as a white solid. ES-MS m/e: 535.1 (M+H+).

reactant | rac-[(3S,4R)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester | 0.376 mmol, 130 mg | C(C)(C)(C)OC(N(C)[C@@H]1CNC[C@H]1C1=CC(=C(C=C1)Cl)Cl)=O | C16H22Cl2N2O2
reactant | ethyl-diisopropyl-amine | 0.56 mmol, 0.10 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-methanesulfonyl-piperazine-1-carbonyl chloride | 0.41 mmol, 94 mg | CS(=O)(=O)N1CCN(CC1)C(=O)Cl | C6H11ClN2O3S
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | rac-[(3S,4R)-4-(3,4-Dichloro-phenyl)-1-(4-methanesulfonyl-piperazine-1-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester | 135 mg, 66% | C(C)(C)(C)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC(=C(C=C1)Cl)Cl)C(=O)N1CCN(CC1)S(=O)(=O)C)=O | C22H32Cl2N4O5S
